US05358949
Solution of 12.3 g of 3-diethylamino-8-methyl-3,4-dihydrocarbostyril hydrochloride in 100 ml of anhydrous dimethylformamide was added 1.9 g of 60%-sodium hydride, then this mixture was heated at 50° C. for 30 minutes. Next, to this reaction mixture was added dropwise 6.53 g of methyl iodide under ice-cooling condition. After the dropwise addition, the whole mixture was heated at 50° to 60° C. with stirring. The reaction mixture was poured in water, and was extracted with chloroform. The chloroform layer was washed with water, and dried. Chloroform was removed by evaporation, and the residue thus obtained was converted into a hydrochloride, and recrystallized from acetone-n-hexane to obtain 12 g of 1-methyl-3-diethylamino-8-methyl-3,4-dihydrocarbostyril hydrochloride. Light brown powdery substance. Melting point: 162.5°-164.5° C.

reactant | 3-diethylamino-8-methyl-3,4-dihydrocarbostyril hydrochloride | 12.3 g | Cl.C(C)N(C1C(NC2=C(C=CC=C2C1)C)=O)CC
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 6.53 g | CI | CH3I
reactant | hydrochloride | Cl | ClH
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-methyl-3-diethylamino-8-methyl-3,4-dihydrocarbostyril hydrochloride | 12 g | Cl.CN1C(=O)C(CC2=CC=CC(=C12)C)N(CC)CC | InChI=1S/C15H22N2O.ClH/c1-5-17(6-2)13-10-12-9-7-8-11(3)14(12)16(4)15(13)18;/h7-9,13H,5-6,10H2,1-4H3;1H
